US06329370B1
3-(4-Chloro-6-methoxy-phthalazin-1-yl)-propionic acid ethyl ester
Operating analogously to example 114 starting from 3-(6-methoxy-4-oxo-3,4-dihydro-phthalazin-1-yl)-propionic acid ethyl ester (552 mg, 2 mmoles), prepared as described in example 119, and POCl3 (1.12 ml, 12 mmoles) in acetonitrile (5 ml), 0.5 g of the title compound were obtained (yield: 84.8%).

reactant | 3-(6-methoxy-4-oxo-3,4-dihydro-phthalazin-1-yl)-propionic acid ethyl ester | 2 mmoles, 552 mg | C(C)OC(CCC1=NNC(C2=CC(=CC=C12)OC)=O)=O | C14H16N2O4
reactant | POCl3 | 12 mmoles, 1.12 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-(4-Chloro-6-methoxy-phthalazin-1-yl)-propionic acid ethyl ester | 0.5 g, yield: 84.8% | C(C)OC(CCC1=NN=C(C2=CC(=CC=C12)OC)Cl)=O | C14H15ClN2O3
